US09284296B2
A mixture of 4-(2-Diethylamino-ethoxy)-[2,2′]bipyridinyl-6-carbonitrile (1.4 g, 5.22 mmol), Palladium hydroxide-Pd 20%-50% in water (2.25 g, excess), ammonium formate (1.65 g, excess) and ethanol (66 mL) was stirred at 27° C. for 2 hours. The reaction was then filtered thorough celite, washed with methanol (200 mL) and dichloromethane (200 mL) and the organic phase evaporated to dryness affording [2-(6-aminomethyl-[2,2′]bipyridinyl-4-yloxy)-ethyl]diethylamine as an orange oil (1.03 g, 30%, in a ratio 1 to 1 product vs. byproduct).

reactant | 4-(2-Diethylamino-ethoxy)-[2,2′]bipyridinyl-6-carbonitrile | 5.22 mmol, 1.4 g | C(C)N(CCOC1=CC(=NC(=C1)C#N)C1=NC=CC=C1)CC | C17H20N4O
reactant | ammonium formate | 1.65 g | C(=O)[O-].[NH4+]
reactant | ethanol | 66 mL | C(C)O | C2H6O
solvent | water | 2.25 g | O | H2O
catalyst | Palladium hydroxide Pd | [OH-].[Pd+2].[OH-].[Pd]
product | [2-(6-aminomethyl-[2,2′]bipyridinyl-4-yloxy)-ethyl]diethylamine | NCC1=CC(=CC(=N1)C1=NC=CC=C1)OCCN(CC)CC | C17H24N4O
